US07001897B2
To a solution of 1-[4-(N-cyanomethyl-N-isopropyl-carbamoyl)-1,3-thiazol-2-yl]-3-methanesulfonyloxyazetidine (635 mg, 1.77 mmol) (obtained as described in Reference Example 49(5)) in dimethylformamide (19 ml) was added potassium thioacetate (1.21 g, 10.6 mmol) at room temperature, and the reaction mixture was stirred in an oil bath (90° C.) for 3 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by chromatography on a silica gel column using hexane:ethyl acetate (1:1)→ethyl acetate as the eluant to afford 3-acetylthio-1-[4-(N-cyanomethyl-N-isopropyl-carbamoyl)-1,3-thiazol-2-yl]azetidine (344 mg, yield 57%) as a pale brown solid.

reactant | 1-[4-(N-cyanomethyl-N-isopropyl-carbamoyl)-1,3-thiazol-2-yl]-3-methanesulfonyloxyazetidine | 1.77 mmol, 635 mg | C(#N)CN(C(=O)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C)C(C)C | C13H18N4O4S2
reactant | potassium thioacetate | 10.6 mmol, 1.21 g | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 19 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-[4-(N-cyanomethyl-N-isopropyl-carbamoyl)-1,3-thiazol-2-yl]azetidine | 344 mg, yield 57% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)C(N(C(C)C)CC#N)=O | C14H18N4O2S2
